US05112998
To a solution of 0.10 g of lithium aluminum hydride in 5 ml of tetrahydrofuran was added 0.66 g of 1α,3β-bis(tetrahydropyran-2-yloxy)cholesta-5,7-dien-22-yl methanesulfonate under heating and the mixture was refluxed for 2 hours. The resulting reaction mixture was cooled and, then, water and diluted hydrochloric acid were added in succession. The mixture was stirred at room temperature for 2 hours. The resulting solution was diluted with water and extracted with diethyl ether. The extract was washed with diluted hydrochloric acid and aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The low-boiling fraction was then distilled off and the residue was purified by silica gel column chromatography and recrystallized from methanol. The procedure yielded 0.18 g of cholesta-5,7-diene-1α,3β-diol (yield: 45%) showing the following physical properties.

reactant | lithium aluminum hydride | 0.10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1α,3β-bis(tetrahydropyran-2-yloxy)cholesta-5,7-dien-22-yl methanesulfonate | 0.66 g | CS(=O)(=O)OC(CCC(C)C)[C@@H](C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC1OCCCC1)OC1OCCCC1 | C38H62O7S
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | cholesta-5,7-diene-1α,3β-diol | 0.18 g, yield: 45% | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O | C27H44O2
